US05569664
To a stirred solution of 0.4 gram (0.0008 mole) of 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine in 10 mL of dimethyl sulfoxide was added a mixture of 0.2 gram (0.0008 mole) of 4-(methylcarbonylamino)phenylmethyl chloride and 0.6 mL (0.003 mole) of N,N-diisopropylethylamine. Upon completion of addition, the reaction mixture was stirred at ambient temperature for about 18 hours. After this time the reaction mixture was partitioned between an aqueous solution saturated with sodium bicarbonate and ethyl acetate. The organic layer was separated and washed with an aqueous solution saturated with sodium chloride. The organic layer was then concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel, with methylene chloride and mixtures of 10-50% acetone in methylene chloride as eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding about 0.3 gram of N-[4-(methylcarbonylamino)phenylmethyl]-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine. The NMR spectrum was consistent with the proposed structure.

reactant | 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | 0.0008 mole, 0.4 gram | FC(OC1=CC=C(C=C1)C(C1CCNCC1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C20H19F6NO3
reactant | 4-(methylcarbonylamino)phenylmethyl chloride | 0.0008 mole, 0.2 gram | CC(=O)NC1=CC=C(C=C1)CCl | C9H10ClNO
reactant | N,N-diisopropylethylamine | 0.003 mole, 0.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | N-[4-(methylcarbonylamino)phenylmethyl]-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | about 0.3 gram | CC(=O)NC1=CC=C(C=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C29H28F6N2O4
